US05149357
To a stirred solution of 5.4 grams (0.017 mole) of 6-chloro-2-(4,6-dimethoxypyrimidin-2-yloxy)benzoic acid in 25 mL of methylene chloride was added 2.4 grams (0.017 mole) of 4-nitrophenol. The reaction mixture was cooled to 0° C., and 3.5 grams (0.017 mole) of dicyclohexylcarbodiimide was added. Upon completion of addition, the reaction mixture was stirred at 0° C. for 30 minutes, and then it was warmed to ambient temperature where it was stirred for an additional two hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to a residue. The residue was stirred with diethyl ether, and the resultant solid was collected by filtration to yield 5.4 grams of 4-nitrophenyl 6-chloro-2-(4,6-dimethoxypyrimidin-2-yloxy)benzoate, m.p. 130°-132° C. The nmr spectrum was consistent with the proposed structure.

reactant | 6-chloro-2-(4,6-dimethoxypyrimidin-2-yloxy)benzoic acid | 0.017 mole, 5.4 grams | ClC1=CC=CC(=C1C(=O)O)OC1=NC(=CC(=N1)OC)OC | C13H11ClN2O5
reactant | 4-nitrophenol | 0.017 mole, 2.4 grams | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | dicyclohexylcarbodiimide | 0.017 mole, 3.5 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-nitrophenyl 6-chloro-2-(4,6-dimethoxypyrimidin-2-yloxy)benzoate | 5.4 grams | ClC1=CC=CC(=C1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC1=NC(=CC(=N1)OC)OC | C19H14ClN3O7
